US06617339B1
3-(4-((3S)-3-Methoxycarbonylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
Using essentially the technique of Example 113, starting from 3-(4-((3S)-3-amino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one hydrochloride salt (170 mg, 0.43 mmol) and methyl chloroformate gave the desired product (114 mg) after trituration with diethyl ether and isohexane.

reactant | 3-(4-((3S)-3-amino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one hydrochloride salt | 0.43 mmol, 170 mg | Cl.N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | isohexane | CCCC(C)C | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-((3S)-3-Methoxycarbonylamino-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 114 mg | COC(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C19H21FN4O6
